US08486967B2
k) 2-{8-(4-Chloro-phenyl)-2-[1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-propan-2-ol
A solution of 2-[2-bromo-8-(4-chloro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-propan-2-ol (42 mg, 0.11 mmol), 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine (18 mg, 0.1 mmol) and sodium phenoxide (17 mg, 0.15 mmol) in dry 1,4-dioxane (6 mL) in a sealed tube was purged with argon for 10 minutes. Pd2(dba)3.CHCl3 (8 mg, 0.012 mmol) and xanthphos (2 mg) were added to the solution and degassing continued for another 5 minutes before the reaction mixture was heated to 160° C. for 15 hours. The reaction mixture was cooled to room temperature and water (10 mL) was added. The aqueous phase was extracted with ethyl acetate, the combined organic phases were dried over sodium sulfate, the solvent was evaporated and the residue purified by silica gel chromatography using dichloromethane/methanol as eluent. The title compound was obtained as a white solid (7 mg, 13%). MS ESI (m/e): 478.0 [(M+H)+].

reactant | 2-[2-bromo-8-(4-chloro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-propan-2-ol | 0.11 mmol, 42 mg | BrC1=NN2C(C(=CC=C2C(C)(C)O)C2=CC=C(C=C2)Cl)=N1 | C15H13BrClN3O
reactant | 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine | 0.1 mmol, 18 mg | CC1=CC(=NC=N1)N1CCC(CC1)N | C10H16N4
reactant | sodium phenoxide | 0.15 mmol, 17 mg | [O-]C1=CC=CC=C1.[Na+]
reactant | CHCl3 | 0.012 mmol, 8 mg | C(Cl)(Cl)Cl | CHCl3
reactant | xanthphos | 2 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-{8-(4-Chloro-phenyl)-2-[1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-propan-2-ol | ClC1=CC=C(C=C1)C=1C=2N(C(=CC1)C(C)(C)O)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C | C25H28ClN7O
